US07777047B2
N-(2-{5-[2-(2,5-dioxopyrrolidin-1-yl)ethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide
A solution (10 mL) of N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (100 mg), succinimide (29 mg) and triphenylphosphine (93 mg) in tetrahydrofuran was added a 40% toluene solution (0.155 mL) of diethyl azodicarboxylate, and the mixture was stirred at room temperature for 18 hr. A 40% toluene solution (0.155 mL) of diethyl azodicarboxylate was added again to the reaction solution, and the mixture was further stirred at room temperature for 5 days. The reaction solution was concentrated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:8-10:0), and the obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (36 mg, yield: 30%) as colorless prism crystals. MS: 503 (MH+). melting point 189-191° C.

reactant | N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 10 mL, 100 mg | OCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C18H19N3O3S3
reactant | succinimide | 29 mg | C1(CCC(N1)=O)=O | C4H5NO2
reactant | triphenylphosphine | 93 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 0.155 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.155 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-{5-[2-(2,5-dioxopyrrolidin-1-yl)ethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide | 36 mg, yield: 30% | O=C1N(C(CC1)=O)CCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C22H22N4O4S3
